US04581168
1. Z-Leu-Gly-OCH3
0.22 mole of Z-Leu-OH are dissolved in 500 ml of DMF. To this solution are successively added:

reactant | Z-Leu-OH | 0.22 mole | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Z-Leu-Gly-OCH3 | N([C@@H](CC(C)C)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
